US07772226B2
(c) t-Butyl 4-[1-(2-butynyl)-5-ethoxycarbonyl-4-thiocarbamoyl-1H-imidazol-2-yl]piperazine-1-carboxylate
5 ml of an aqueous solution of 50% ammonium sulfide was added to a 20-ml ethanol solution containing 0.80 g of t-butyl 4-[1-(2-butynyl)-4-cyano-5-ethoxycarbonyl-1H-imidazol-2-yl]piperazine-1-carboxylate, and the mixture was heated at 60° C. for 14 hours. 100 ml of ethyl acetate and 50 ml of water were added to the mixture, and the organic layer was washed successively with 50 ml of water and 50 ml of a saturated sodium chloride solution. The reaction solution was dried over anhydrous magnesium sulfate, then filtered. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography. Thus, 0.58 g of the title compound was obtained from the fraction eluted with hexane-ethyl acetate (3:2).

reactant | ammonium sulfide | [NH4+]=S
reactant | ethanol | 20-ml | C(C)O | C2H6O
reactant | t-butyl 4-[1-(2-butynyl)-4-cyano-5-ethoxycarbonyl-1H-imidazol-2-yl]piperazine-1-carboxylate | 0.80 g | C(C#CC)N1C(=NC(=C1C(=O)OCC)C#N)N1CCN(CC1)C(=O)OC(C)(C)C | C20H27N5O4
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | t-Butyl 4-[1-(2-butynyl)-5-ethoxycarbonyl-4-thiocarbamoyl-1H-imidazol-2-yl]piperazine-1-carboxylate | 0.58 g | C(C#CC)N1C(=NC(=C1C(=O)OCC)C(N)=S)N1CCN(CC1)C(=O)OC(C)(C)C | C20H29N5O4S
